US08350092B2
In a 50 ml three-necked flask equipped with a thermometer, a magnetic stirrer and a condenser, 0.14 g of optically enriched (R)-1-benzyl-2,2-dimethoxyethylamine (91% ee, determined by chiral HPLC) (0.71 mmol, 1 mol.eq.) and 0.09 g of salicylaldehyde (0.71 mmol, 1 mol.eq.) are introduced into 1 g of toluene. This medium is left to stir at ambient temperature for 2-3 h. After concentrating, a crude mass of 0.21 g of 2-[(1-benzyl-2,2-dimethoxyethylimino)methyl]phenol is obtained.

reactant | (R)-1-benzyl-2,2-dimethoxyethylamine | 0.71 mmol | C(C1=CC=CC=C1)[C@H](C(OC)OC)N | C11H17NO2
reactant | salicylaldehyde | 0.71 mmol, 0.09 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | toluene | 1 g | C1(=CC=CC=C1)C | C7H8
product | 2-[(1-benzyl-2,2-dimethoxyethylimino)methyl]phenol | 0.21 g | C(C1=CC=CC=C1)C(C(OC)OC)N=CC1=C(C=CC=C1)O | C18H21NO3
